US07776857B2
To a solution of 4-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenylthio)quinolin-6-ol (0.062 g, 0.12 mmol) in THF at 0° C., was added NaH (0.018 g, 0.73 mmol). The mixture was stirred at 0° C. for 30 minutes. 1-Chloro-2-(methylsulfonyl)ethane (0.035 g, 0.24 mmol) and trace amount of NaI were added. The mixture was stirred and warmed to RT for 15 h. The reaction was quenched with sat. NH4Cl, and extracted with DCM. The combined organic layers were washed with brine, dried, filtered and concentrated. The crude product was purified via column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% (90:10:1 DCM/MeOH/NH4OH-DCM) to afford 4-(4-chlorophenyl)-N-(4-(6-(2-(methylsulfonyl)ethoxy)quinolin-4-ylthio)phenyl)phthalazin-1-amine as a light yellow solid. MS: m/z=[M+H]+. 614.0 Calc'd for C32H25ClN4O3S2: 613.1.

reactant | 4-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenylthio)quinolin-6-ol | 0.12 mmol, 0.062 g | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC=C(C=C12)O | C29H19ClN4OS
reactant | NaH | 0.73 mmol, 0.018 g | [H-].[Na+]
reactant | 1-Chloro-2-(methylsulfonyl)ethane | 0.24 mmol, 0.035 g | ClCCS(=O)(=O)C | C3H7ClO2S
reactant | NaI | [Na+].[I-]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-chlorophenyl)-N-(4-(6-(2-(methylsulfonyl)ethoxy)quinolin-4-ylthio)phenyl)phthalazin-1-amine | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC=C(C=C12)OCCS(=O)(=O)C | C32H25ClN4O3S2
